2129-08-19 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -patient kept desaturating to high 80s, ABG done.
   -This morning, patient was falling asleep while talking with her. Said
   feels tired, but breathing well. Did another ABG.
   -hypoglycemic today at 38.
   No SOB, n/v/chest pain.
   Allergies:
   Penicillins
   Shortness of br
   Amoxicillin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Throat Swelling
   Last dose of Antibiotics:
   Vancomycin - [**2129-8-18**] 08:30 PM
   Aztreonam - [**2129-8-19**] 02:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2129-8-19**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-8-19**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 83 (79 - 101) bpm
   BP: 125/65(80) {99/56(67) - 143/78(91)} mmHg
   RR: 20 (15 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.9 kg (admission): 84.5 kg
             Total In:
                                                                  1,176 mL
                                                                    325 mL
   PO:
                                                                    460 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    716 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    500 mL
   Urine:
                                                                  1,400 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -224 mL
                                                                   -175 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: 7.36/37/61/18/-3
   PaO2 / FiO2: 64
   Physical Examination
   GEN: - Patient with breathing mask. Falls asleep while speaking with
   me.
   HEENT: -PERRL, sclera anicteric, MMM, erythematous posterior oropharynx
   noted, no exudates noted
   NECK: - supple, JVP not elevated, no cervical lymphadenopathy.
   PULM:  Bilateral crackles throughout.
   CVS - RRR, normal S1/S2. no murmurs, rubs, or gallops appreciated
   ABD: normoactive bowel sounds; soft, mild TTP over right side of
   abdomen and epigastric region, non-distended, no rebound or guarding
   EXT- Warm, well perfused, radial and DP pulses 2+; no clubbing,
   cyanosis or edema
   SKIN - no rashes, warm to the touch
   Labs / Radiology
   244 K/uL
   10.2 g/dL
   327 mg/dL
   1.1 mg/dL
   18 mEq/L
   4.1 mEq/L
   20 mg/dL
   103 mEq/L
   128 mEq/L
   31.0 %
   14.6 K/uL
        [image002.jpg]
                             [**2129-8-18**]  03:24 AM
                             [**2129-8-18**]  04:20 AM
                             [**2129-8-18**]  04:07 PM
                             [**2129-8-18**]  06:52 PM
   WBC
   14.6
   Hct
   31.0
   Plt
   244
   Cr
   1.3
   1.1
   TropT
   <0.01
   <0.01
   TCO2
   19
   22
   Glucose
   64
   327
   Other labs: PT / PTT / INR:14.8/33.4/1.3, CK / CKMB /
   Troponin-T:103/3/<0.01, ALT / AST:9/42, Alk Phos / T Bili:81/0.1,
   Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:895 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   CE x 2: normal
   Fingersticks: 74-160-[**Medical Record Number 9639**]
   Imaging:
   CT of chest (no contrast [**2129-8-18**]): final read pending. Has ground-glass
   opacities, air bronchograms, emphysematous changes
   Bilateral LENI ([**2129-8-18**]): pending read
   Echo ([**2129-8-18**]): pending read
   Cultures:
   Sputum: poor specimens x2
   Assessment and Plan
 PNEUMONIA, OTHER
   Ms. [**Known lastname 511**] is a 48-year-old female with history of IDDM, chronic
   pancreatitis, HTN, and longstanding anemia who presents now with
   elevated BNP, SOB and diffuse pulmonary edema on CXR consistent with
   CHF exacerbation as well as fevers, leukocytosis and additional patchy
   infiltrates on CXR concerning for PNA. .
   ..
   #.Shortness of breath / hypoxia: Productive sputum, fevers ,
   leukocytosis, cough and marked shortness of breath with desaturations
   to the 70s range on room air are all concerning for PNA. CXR shows
   bilateral edema with elevated BNP in 4k range which also supports an
   additional component of CHF exacerbation, likely prompted in setting of
   recent infection. Given her marked desaturations on room air and very
   high LDH, PCP is certainly in the differential here as well. Although
   she has perisistent elevated LDH levels in setting of her chronic
   pancreatitis. LDH can also be elevated in pulmonary infarction as well
   and patient has history of prior splenic vein thrombosis. Thus, PE is
   also on differential at this time.  Respiratory viral  culture:
   negative, PCP [**Name Initial (PRE) 9640**]: negative, legionella antigen: negative, HIV:
   negative
   .
   -continue on Vancomycin/Levaquin /Aztreonam
   -f/u sputum culture
   -STAT ABG
   -check urine legionella, check resp viral panel
   -continue on facemask ; wean FiO2 as tolerates
   .
   #Leukocytosis - WBC elevated to 14.3 with left shift. Likely etiology
   is PNA in setting of aforementioned symptoms of cough, fevers,
   productive sputum and dyspnea. Will also need to follow up urine
   culture as well given some small amount of WBCs & bacteria.
   .
   --continue Vancomycin, Levaquin, Aztreonam for CAP coverage
   --follow-up blood and urine cultures
   .
   #CHF - EKG with prominent LVH. Longstanding HTN makes diastolic
   dysfunction quite likely.  Last TTE in [**2127**] showed LVEF >55% but may
   have worsened systolic function and/or additional diastolic CHF since
   that time. She reports orthopnea over past 2 days but denies LE edema,
   palpitations, or chest pain. CEs negative in ED. CXR with cephalization
   and edema. She has elevated BNP in 4k range which also supports CHF
   exacerbation which was likely triggered by new PNA/ URI.
   .
   --will give lasix IV tonight, monitor UOP
   --f/up TTE
   --low Na diet
   --continue to trend 2 total sets of cardiac enzymes
   --continue on beta blocker and HTN medications once BPs improve
   (holding now in setting of SBPs in low 100 range)
   .
   # IDDM- She has history of insulin dependent diabetes. Glucose in 60s
   in ED in setting of poor PO intake. Low blood glucose in AM. On 28 of
   Lantus at night and a sliding scale.
   .
   -QID fingersticks
   -continue on [**3-8**] basal glargine dose due to poor PO
   -continue on overlapping QID humalog SSI coverage PRN
   .
   #. Chronic pancreatitis- Per multiple OMR GI notes she is noted to have
   idiopathic chronic pancreatitis of unclear etiology after mutiple
   studies. She is seen by Dr. [**Last Name (STitle) 4691**]. At current time her chronic
   abdominal pain is near usual baseline and she has normal lipase level.
   .
   -pain control with PRN Percocet
   -continue on usual supplemental Amylase-Lipase-Protease w/meals
   .
   #.HTN - Appears well controlled now with SBPs in the low 100s range.
   --will hold amlodipine, atenolol and lisinopril to allow more room for
   diuresis.
   --continue to trend BPs
   .
   #.Anemia -Chronic in nature. Hct is 33.9 now and near usual baseline
   Hct in the 30-33 range.
   .
   --continue to trend Hcts
   --transfuse for Hct <21 or >7 point Hct drop
   --will check stool guiacs
   --add on iron studies
   .
   #Depression- Slightly flattened affect on exam. She denies any current
   suicidal ideation/homicidal ideation. Per OMR notes, long history of
   depressive symptoms. Stable at current time.
   .
   #Tobacco use history - patient smoking 1PPD now.
   --will place on nicotine patch
   ICU Care
   Nutrition: Full diet
   Glycemic Control:  74-160-[**Medical Record Number 9639**]
   Lines:
   20 Gauge - [**2129-8-18**] 09:02 PM, poor peripheral access.
   Prophylaxis:
   DVT: SC heparin, pneumoboots
   Stress ulcer: famotidine
   VAP:
   Comments: colace, senna
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-08-20 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2129-8-19**] 01:19 PM
   -O2 is down to 50% NRB, tolerating well
   -got a L arterial line
   -IV nurse was able to put a PIV on her R arm
   -will go for PICC tomorrow
   Allergies:
   Penicillins
   Shortness of br
   Amoxicillin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Throat Swelling
   Last dose of Antibiotics:
   Vancomycin - [**2129-8-20**] 12:31 AM
   Aztreonam - [**2129-8-20**] 02:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-8-19**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2129-8-19**] 08:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-8-20**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 75 (73 - 101) bpm
   BP: 125/62(83) {108/57(80) - 183/100(131)} mmHg
   RR: 13 (12 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.9 kg (admission): 84.5 kg
             Total In:
                                                                  1,750 mL
                                                                    614 mL
   PO:
                                                                  1,060 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    640 mL
                                                                    374 mL
   Blood products:
   Total out:
                                                                  1,925 mL
                                                                    200 mL
   Urine:
                                                                  1,925 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -175 mL
                                                                    414 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: 7.39/37/64/23/-1 (yesterday at 1pm)
   PaO2 / FiO2: 128
   Physical Examination
   GEN: - Patient with breathing mask. Falls asleep while speaking with
   me.
   HEENT: -PERRL, sclera anicteric, MMM, erythematous posterior oropharynx
   noted, no exudates noted
   NECK: - supple, JVP not elevated, no cervical lymphadenopathy.
   PULM:  Bilateral crackles throughout.
   CVS - RRR, normal S1/S2. no murmurs, rubs, or gallops appreciated
   ABD: normoactive bowel sounds; soft, mild TTP over right side of
   abdomen and epigastric region, non-distended, no rebound or guarding
   EXT- Warm, well perfused, radial and DP pulses 2+; no clubbing,
   cyanosis or edema
   SKIN - no rashes, warm to the touch
   Labs / Radiology
   266 K/uL
   9.4 g/dL
   58 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.9 mEq/L
   11 mg/dL
   106 mEq/L
   137 mEq/L
   28.9 %
   9.2 K/uL
        [image002.jpg]
                             [**2129-8-18**]  03:24 AM
                             [**2129-8-18**]  04:20 AM
                             [**2129-8-18**]  04:07 PM
                             [**2129-8-18**]  06:52 PM
                             [**2129-8-19**]  05:01 AM
                             [**2129-8-19**]  07:31 AM
                             [**2129-8-19**]  01:31 PM
                             [**2129-8-19**]  01:52 PM
                             [**2129-8-20**]  05:09 AM
   WBC
   14.6
   8.8
   12.0
   9.2
   Hct
   31.0
   24.0
   30.4
   28.9
   Plt
   244
   181
   301
   266
   Cr
   1.3
   1.1
   0.8
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   19
   22
   23
   23
   Glucose
   64
   327
   32
   58
   Other labs: PT / PTT / INR:13.5/34.0/1.2, CK / CKMB /
   Troponin-T:103/3/<0.01, ALT / AST:9/42, Alk Phos / T Bili:83/0.2,
   Differential-Neuts:66.9 %, Lymph:24.7 %, Mono:4.1 %, Eos:4.0 %,
   Fibrinogen:910 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:784
   IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL\
   Cx:
   Sputum neg
   Assessment and Plan
 PNEUMONIA, OTHER
   Ms. [**Known lastname 511**] is a 48-year-old female with history of IDDM, chronic
   pancreatitis, HTN, and longstanding anemia who presents now with
   elevated BNP, SOB and diffuse pulmonary edema on CXR consistent with
   CHF exacerbation as well as fevers, leukocytosis and additional patchy
   infiltrates on CXR concerning for PNA. .
   ..
   #.Shortness of breath / hypoxia: The patient continues to be hypoxemic
   despite antibiotic and supportive therapy. CT of the chest shows
   ground-glass opacities, air bronchograms, and emphysematous changes.
   Her clinical picture of hypoxemia, SOB, and sputum are most likely
   infectious (bacterial-Streptococcus (legionella negative), GNR vs.
   viral (negative respiratory viral) vs. fungal (no exposure history) vs.
   opportunistic (PCP nondiagnostic, but unlikely given negative HIV).
   Other considerations for SOB include acute interstitial pneumonia,
   acute eosinophilic pneumonitis, hypersensitivity reaction, crytogenic
   organizing pneumonia, as well as other interstitial pulmonary processes
   such as DIP (the patient has been smoking for the last 36 yrs, and
   recently 2ppd). CHF exacerbation also likely given elevated JVP and
   crackles. COPD exacerbation and PE less likely in this clinical
   picture. Since anemia also, consider tests for Wegeners and
   Goodpasture
s, although acute HCT drop was spurrious lab value. Sputum
   negative (poor sample).
   - will send out for atypicals (mycoplasma, chlamydia)
   -continue on Vancomycin (Day 2) / Levaquin (Day 2) / Aztreonam (Day 2)
   -vanc trough
   -f/u autoimmune labs
   -continue on facemask ; wean FiO2 as tolerates
   -If patient does not improve on therapy, consider dexamethasone for
   pulmonary interstitial disease.
   .
   #.Anemia
Has chronic anemia with baseline Hct: 30-33. Pt currently at
   baseline. Acute drop from 31
24 on [**8-19**] initially reported was LAB
   ERROR.
   --cont to follow daily labs
   .
   #CHF - EKG with prominent LVH. Longstanding HTN makes diastolic
   dysfunction quite likely.  Last TTE in [**2127**] showed LVEF >55% but may
   have worsened systolic function and/or additional diastolic CHF since
   that time. She reports orthopnea over past 2 days but denies LE edema,
   palpitations, or chest pain. CEs negative in ED. CXR with cephalization
   and edema. She has elevated BNP in 4k range which also supports CHF
   exacerbation which was likely triggered by new PNA/ URI.  Responded
   well to Lasix 10 bolus yesterday.
   .
   --f/up TTE final read (only shows increased TR gradient)
   --low Na diet
   --holding home atenolol, amlodipine, lisinopril for low BPs
   .
   # IDDM- She has history of insulin dependent diabetes. Low blood
   glucose in AM. On 28 of Lantus at night and a sliding scale. FS have
   been well controlled below 100s.
   - ISS / QID fingersticks
   .
   #. Chronic pancreatitis- Per multiple OMR GI notes she is noted to have
   idiopathic chronic pancreatitis of unclear etiology after mutiple
   studies. She is seen by Dr. [**Last Name (STitle) 4691**]. At current time her chronic
   abdominal pain is near usual baseline and she has normal lipase level.
   -pain control with PRN Percocet, fentanyl patch
   -continue on usual supplemental Amylase-Lipase-Protease w/meals
   .
   #.HTN - Appears well controlled now with SBPs in the low 100s range.
   BPs improving now.
   --will hold amlodipine, atenolol and lisinopril to allow more room for
   diuresis.
   --continue to trend BPs
   .
   #Depression- Slightly flattened affect on exam. She denies any current
   suicidal ideation/homicidal ideation. Per OMR notes, long history of
   depressive symptoms. Stable at current time.
   .
   #Tobacco use history - patient smoking 1PPD now.
   -- nicotine patch  prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-8-19**] 01:19 PM
   22 Gauge - [**2129-8-20**] 12:05 AM
   PICC
   Prophylaxis:
   DVT: SQH, pneumoboots,
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-08-20 12:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2129-8-19**] 01:19 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Shortness of br
   Amoxicillin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Throat Swelling
   Last dose of Antibiotics:
   Vancomycin - [**2129-8-20**] 08:00 AM
   Aztreonam - [**2129-8-20**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-8-20**] 08:00 AM
   Famotidine (Pepcid) - [**2129-8-20**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2129-8-20**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.2
   HR: 82 (73 - 101) bpm
   BP: 143/78(100) {108/57(79) - 183/100(131)} mmHg
   RR: 16 (12 - 25) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.4 kg (admission): 84.5 kg
             Total In:
                                                                  1,750 mL
                                                                  1,066 mL
   PO:
                                                                  1,060 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    640 mL
                                                                    666 mL
   Blood products:
   Total out:
                                                                  1,925 mL
                                                                    200 mL
   Urine:
                                                                  1,925 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -175 mL
                                                                    866 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 90%
   ABG: 7.39/37/64/23/-1
   PaO2 / FiO2: 128
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   266 K/uL
   58 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.9 mEq/L
   11 mg/dL
   106 mEq/L
   137 mEq/L
   28.9 %
   9.2 K/uL
        [image002.jpg]
                             [**2129-8-18**]  03:24 AM
                             [**2129-8-18**]  04:20 AM
                             [**2129-8-18**]  04:07 PM
                             [**2129-8-18**]  06:52 PM
                             [**2129-8-19**]  05:01 AM
                             [**2129-8-19**]  07:31 AM
                             [**2129-8-19**]  01:31 PM
                             [**2129-8-19**]  01:52 PM
                             [**2129-8-20**]  05:09 AM
   WBC
   14.6
   8.8
   12.0
   9.2
   Hct
   31.0
   24.0
   30.4
   28.9
   Plt
   244
   181
   301
   266
   Cr
   1.3
   1.1
   0.8
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   19
   22
   23
   23
   Glucose
   64
   327
   32
   58
   Other labs: PT / PTT / INR:13.5/34.0/1.2, CK / CKMB /
   Troponin-T:103/3/<0.01, ALT / AST:9/42, Alk Phos / T Bili:83/0.2,
   Differential-Neuts:66.9 %, Lymph:24.7 %, Mono:4.1 %, Eos:4.0 %,
   Fibrinogen:910 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:784
   IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR-
   Assessment and Plan
   48 yo female with history of chronic pancreatitis and now admitted with
   hypoxemia and respiratory distress now with some improvement across the
   past 24 hours.  She still maintains significant A-a gradient hypoxemia
   and desaturations with exertion.
   1)Hypoxemia-The differential diagnosis for this is
   extensive
certainly
we have hypoxemic respiratory compromise secondary
   to diffuse interstitial lung disease with acute onset.-->
   PULMONARY EDEMA--Hydrostatic or non-hydorstatic is most likely source
   for significant changes over past 24 hours.  The notion of purely
   hydrostatic edema seems less likely.  There is certainly possible
   trigger of toxic inhalation, infection, idiopathic pneumonitis without
   clear source identified.
   PNEUMONIA-Possible and continued with Vanco/Levoflox/Aztreonam but this
   would be atypical
viral scan has been negative to date, no atypical
   bacteria identified, PCP in the setting of negative HIV is less likely.
   PNEUMONITIS--Aspriation possible, AIP, Hypersensitivity, toxic
   inhalation are possible.
   HEMORRHAGE less likely.
   -Would favor maintenance or even to negative fluid balance
   -Will continue with ABX
   -Will provide intubation if clinical worsening seen
   -Will need to consider bronchoscopy with BAL for possible PCP
   [**Name9 (PRE) 9657**] have [**Doctor First Name 1205**], ANCA, RF
   -Mycoplasma
Ig pending
   -PCP would be deserving of evaluation and would favor further sampling
   as possible with induced sputum being low yield and will trial empiric
   Rx and BAL if worsening
   -Will maintain even and negative fluid balance
   -Will hold on steroids with DIP perhaps most likely at this time and
   have initial improvement.
   -At this time risk of biopsy is excessive in the setting of some
   clinical improvement.
   2)Diabetes Mellitus-
   3)PANCREATITIS, CHRONIC-
   -Pancrease
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2129-8-19**] 01:19 PM
   22 Gauge - [**2129-8-20**] 12:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2129-08-21 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2129-8-20**] 10:00 AM
 SPUTUM CULTURE - At [**2129-8-20**] 03:30 PM
   sputum sent for PCP (induced by RT)
   --patient says coughed yellow sputum with specks of dark blood.
   --patient says feels like arms are swollen bilaterally. Not painful.
   +nausea, + SOB
   Denies vomiting, fever, chills, chest pain, dizziness
   Allergies:
   Penicillins
   Shortness of br
   Amoxicillin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Throat Swelling
   Last dose of Antibiotics:
   Vancomycin - [**2129-8-20**] 08:10 PM
   Aztreonam - [**2129-8-21**] 01:10 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-8-20**] 08:01 AM
   Heparin Sodium (Prophylaxis) - [**2129-8-20**] 10:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-8-21**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 81 (75 - 98) bpm
   BP: 145/67(94) {108/53(71) - 157/110(119)} mmHg
   RR: 15 (11 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.4 kg (admission): 84.5 kg
             Total In:
                                                                  2,320 mL
                                                                    129 mL
   PO:
                                                                  1,280 mL
             TF:
   IVF:
                                                                  1,040 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    250 mL
   Urine:
                                                                  1,100 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,220 mL
                                                                   -121 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94% on 5 L
   ABG: ///22/
   Physical Examination
   GEN: - Pleasant female in NAD.
   HEENT: -PERRL, sclera anicteric, MMM, erythematous posterior oropharynx
   noted, no exudates noted
   NECK: - supple, JVP not elevated, no cervical lymphadenopathy.
   PULM:  Bilateral crackles at bases and right anterior superior.
   CVS - RRR, normal S1/S2. no murmurs, rubs, or gallops appreciated
   ABD: normoactive bowel sounds; soft, mild TTP over right side of
   abdomen and epigastric region, non-distended, no rebound or guarding
   EXT- Warm, well perfused, radial and DP pulses 2+; no clubbing,
   cyanosis or edema
   SKIN - no rashes, warm to the touch
   Labs / Radiology
   306 K/uL
   9.3 g/dL
   120 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.7 mEq/L
   11 mg/dL
   106 mEq/L
   137 mEq/L
   29.0 %
   8.8 K/uL
        [image002.jpg]
                             [**2129-8-18**]  03:24 AM
                             [**2129-8-18**]  04:20 AM
                             [**2129-8-18**]  04:07 PM
                             [**2129-8-18**]  06:52 PM
                             [**2129-8-19**]  05:01 AM
                             [**2129-8-19**]  07:31 AM
                             [**2129-8-19**]  01:31 PM
                             [**2129-8-19**]  01:52 PM
                             [**2129-8-20**]  05:09 AM
                             [**2129-8-21**]  03:53 AM
   WBC
   14.6
   8.8
   12.0
   9.2
   8.8
   Hct
   31.0
   24.0
   30.4
   28.9
   29.0
   Plt
   244
   181
   301
   266
   306
   Cr
   1.3
   1.1
   0.8
   0.9
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   19
   22
   23
   23
   Glucose
   64
   327
   32
   58
   120
   Other labs: PT / PTT / INR:13.5/34.0/1.2, CK / CKMB /
   Troponin-T:103/3/<0.01, ALT / AST:9/42, Alk Phos / T Bili:83/0.2,
   Differential-Neuts:66.9 %, Lymph:24.7 %, Mono:4.1 %, Eos:4.0 %,
   Fibrinogen:910 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:784
   IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Induced sputum culture: non-diagnostic
   FBG: 270 (6 units of Humalog)-263-216 (4 units of humalog)-120
   CXR ([**2129-8-21**]): Interstitial edema. No pleural effusions.
   Assessment and Plan
 .H/O PANCREATITIS, CHRONIC
 PNEUMONIA, OTHER
   Ms. [**Known lastname 511**] is a 48-year-old female with history of IDDM, chronic
   pancreatitis, HTN, and longstanding anemia who presents now with SOB
   and diffuse pulmonary interstitial edema on CXR.
   ..
   #.Shortness of breath / hypoxia: The patient continues to be hypoxemia,
   although appears better with treatment and supportive therapy. CT of
   the chest shows ground-glass opacities, air bronchograms, and
   emphysematous changes. Her clinical picture of hypoxemia, SOB, and
   sputum are most likely inflammatory diseases such as diffuse
   interstitial pneumonitis (patient smoking for last 36 years and more
   recently 2ppd), acute interstitial pneumonia, acute eosinophilic
   pneumonitis, hypersensitivity reaction, and crytogenic organizing
   pneumonia. In addition, she is currently being treated for infectious
   etiologies (bacterial-Streptococcus (legionella negative), GNR vs.
   viral (negative respiratory viral) vs. fungal (no exposure history) vs.
   opportunistic (PCP nondiagnostic, but unlikely given negative HIV)..
   Although patient has crackles, edema and elevated JVP, CHF exacerbation
   is unlikely.  Sent tests for Wegeners and Goodpasture
s, although acute
   HCT drop was spurrious lab value. Sputum negative (poor sample).
   - will send out for atypicals (mycoplasma, chlamydia)
   -continue on Vancomycin (started [**8-18**]) / Levaquin (started [**8-18**]) /
   Aztreonam (started [**8-18**])
   -vanc trough
   -f/u autoimmune labs
   -continue on facemask ; wean FiO2 as tolerates
   -If patient does not improve on therapy, consider dexamethasone for
   pulmonary interstitial disease.
   -As an outpatient, the patient will have to have PFTs and Xrays to
   assess pulmonary function.
   #CHF - EKG with prominent LVH. Longstanding HTN makes diastolic
   dysfunction quite likely.  Last TTE in [**2127**] showed LVEF >55% but may
   have worsened systolic function and/or additional diastolic CHF since
   that time. She reports orthopnea over past 2 days but denies LE edema,
   palpitations, or chest pain. CEs negative in ED. CXR with cephalization
   and edema. She has elevated BNP in 4k range which also supports CHF
   exacerbation which was likely triggered by new PNA/ URI.  Responded
   well to Lasix 10 bolus yesterday.
   --low Na diet
   --holding home atenolol, amlodipine, lisinopril for low BPs
   -Will continue to give lasix as needed
   .
   #HTN
 sbp: 140-150
   --will hold amlodipine, atenolol and lisinopril to allow more room for
   diuresis.  Consider starting lisinopril.
   --continue to trend BPs
   .
   # IDDM- She has history of insulin dependent diabetes. Low blood
   glucose in AM. On 28 of Lantus at night and a sliding scale.
   - ISS and Lantus at night / QID fingersticks
   .
   #.Anemia
Has chronic anemia with baseline Hct: 30-33. Pt currently at
   baseline. Acute drop from 31
24 on [**8-19**] initially reported was LAB
   ERROR.
   --cont to follow daily labs
   .
   #. Chronic pancreatitis- Per multiple OMR GI notes she is noted to have
   idiopathic chronic pancreatitis of unclear etiology after mutiple
   studies. She is seen by Dr. [**Last Name (STitle) 4691**]. At current time her chronic
   abdominal pain is near usual baseline and she has normal lipase level.
   -pain control with PRN Percocet, fentanyl patch
   -continue on usual supplemental Amylase-Lipase-Protease w/meals
   .
   #Depression- Slightly flattened affect on exam. She denies any current
   suicidal ideation/homicidal ideation. Per OMR notes, long history of
   depressive symptoms. Stable at current time.
   .
   #Tobacco use history - patient smoking 1PPD now.
   -- nicotine patch  prn
   ICU Care
   Nutrition:
   Glycemic Control:  Lantus and sliding scale. Glucose well-controlled.
   Lines:
   Arterial Line - [**2129-8-19**] 01:19 PM
   22 Gauge - [**2129-8-20**] 12:05 AM
   PICC Line - [**2129-8-20**] 10:00 AM
   Prophylaxis:
   DVT: SQ heparin, boots
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments: Spoke with daughter.
   [**Name (NI) 66**] status: Full code
   Disposition: Will check ambulatory saturations. If stable, will send to
   floors. Will need pulmonology consult while on floors.

2129-08-21 11:36:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2129-8-20**] 10:00 AM
 SPUTUM CULTURE - At [**2129-8-20**] 03:30 PM
   sputum sent for PCP (induced by RT)
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Shortness of br
   Amoxicillin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Throat Swelling
   Last dose of Antibiotics:
   Vancomycin - [**2129-8-21**] 08:00 AM
   Aztreonam - [**2129-8-21**] 09:56 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-8-21**] 08:29 AM
   Famotidine (Pepcid) - [**2129-8-21**] 08:31 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-8-21**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.6
   HR: 88 (74 - 98) bpm
   BP: 166/86(115) {108/53(71) - 166/88(115)} mmHg
   RR: 13 (10 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.4 kg (admission): 84.5 kg
             Total In:
                                                                  2,320 mL
                                                                    652 mL
   PO:
                                                                  1,280 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,040 mL
                                                                    412 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    600 mL
   Urine:
                                                                  1,100 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,220 mL
                                                                     52 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases)
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   306 K/uL
   120 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.7 mEq/L
   11 mg/dL
   106 mEq/L
   137 mEq/L
   29.0 %
   8.8 K/uL
        [image002.jpg]
                             [**2129-8-18**]  03:24 AM
                             [**2129-8-18**]  04:20 AM
                             [**2129-8-18**]  04:07 PM
                             [**2129-8-18**]  06:52 PM
                             [**2129-8-19**]  05:01 AM
                             [**2129-8-19**]  07:31 AM
                             [**2129-8-19**]  01:31 PM
                             [**2129-8-19**]  01:52 PM
                             [**2129-8-20**]  05:09 AM
                             [**2129-8-21**]  03:53 AM
   WBC
   14.6
   8.8
   12.0
   9.2
   8.8
   Hct
   31.0
   24.0
   30.4
   28.9
   29.0
   Plt
   244
   181
   301
   266
   306
   Cr
   1.3
   1.1
   0.8
   0.9
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   19
   22
   23
   23
   Glucose
   64
   327
   32
   58
   120
   Other labs: PT / PTT / INR:13.5/34.0/1.2, CK / CKMB /
   Troponin-T:103/3/<0.01, ALT / AST:9/42, Alk Phos / T Bili:83/0.2,
   Differential-Neuts:66.9 %, Lymph:24.7 %, Mono:4.1 %, Eos:4.0 %,
   Fibrinogen:910 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:784
   IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR--Minimal change in diffuse interstitial infiltrates
   Microbiology: Sputum--non-diagnostic
   Assessment and Plan
   48 yo female with history of chronic pancreatitis and now admitted with
   diffuse interstitial lung disease of acute onset presenting as
   significant hypoxemia and now with reasonable response to ABX, mild
   negative fluid balance and supplemental oxygen.  The differential
   diagnosis is certainly broad and led by DIP/NSIP vs. atypical/viral
   infection.
   1)Hypoxemia-Improved interstitial pneumonitis with abx and observation
   and D/C of smoking
   -Vanco/Levoflox/Aztreonam
   -Follow up sputum results
   -Move to ambulation and check oxymetry with ambulation in the setting
   of O2
   -Will follow up on serologies
   -Did discuss with patient role of biopsy which we would defer at this
   time given clinical improvement
   -Patient agrees to stopping of smoking
   -Will need pulmonary follow up for radiographic resolution
   2)H/O PANCREATITIS, CHRONIC
   -Fentanyl Patch
   ICU Care
   Nutrition: Po diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2129-8-19**] 01:19 PM
   PICC Line - [**2129-8-20**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2129-08-22 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -patient ambulatory saturation in high 80s while on 4L NC.
   -SBP`180-190. Given 5mg Lopressor IV x 2.
   Allergies:
   Penicillins
   Shortness of br
   Amoxicillin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Throat Swelling
   Last dose of Antibiotics:
   Aztreonam - [**2129-8-21**] 05:57 PM
   Vancomycin - [**2129-8-21**] 08:08 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2129-8-21**] 11:00 AM
   Famotidine (Pepcid) - [**2129-8-21**] 08:07 PM
   Heparin Sodium (Prophylaxis) - [**2129-8-21**] 10:49 PM
   Metoprolol - [**2129-8-22**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-8-22**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.4
C (97.6
   HR: 70 (70 - 96) bpm
   BP: 185/89(126) {130/60(82) - 185/103(126)} mmHg
   RR: 12 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.4 kg (admission): 84.5 kg
             Total In:
                                                                  2,230 mL
                                                                     72 mL
   PO:
                                                                  1,440 mL
             TF:
   IVF:
                                                                    790 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  3,100 mL
                                                                    700 mL
   Urine:
                                                                  3,100 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -870 mL
                                                                   -628 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.40/44/68/23/1
   Physical Examination
   GEN: - Pleasant female in NAD.
   HEENT:  sclera anicteric, MMM, no exudates noted
   NECK: - supple, JVP not elevated, no cervical lymphadenopathy.
   PULM:  Bilateral crackles at bases and right anterior superior.
   CVS - RRR, normal S1/S2. no murmurs, rubs, or gallops appreciated
   ABD: normoactive bowel sounds; soft, mild TTP over right side of
   abdomen and epigastric region, non-distended, no rebound or guarding
   EXT- Warm, well perfused, radial and DP pulses 2+; no clubbing,
   cyanosis or edema
   SKIN - no rashes, warm to the touch
   Neurologic: Not assessed
   Labs / Radiology
   389 K/uL
   9.5 g/dL
   52 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.1 mEq/L
   9 mg/dL
   111 mEq/L
   142 mEq/L
   29.0 %
   7.1 K/uL
        [image002.jpg]
                             [**2129-8-18**]  04:07 PM
                             [**2129-8-18**]  06:52 PM
                             [**2129-8-19**]  05:01 AM
                             [**2129-8-19**]  07:31 AM
                             [**2129-8-19**]  01:31 PM
                             [**2129-8-19**]  01:52 PM
                             [**2129-8-20**]  05:09 AM
                             [**2129-8-21**]  03:53 AM
                             [**2129-8-21**]  01:49 PM
                             [**2129-8-22**]  04:02 AM
   WBC
   8.8
   12.0
   9.2
   8.8
   7.1
   Hct
   24.0
   30.4
   28.9
   29.0
   29.0
   Plt
   181
   301
   266
   306
   389
   Cr
   1.1
   0.8
   0.9
   0.8
   0.7
   TropT
   <0.01
   TCO2
   22
   23
   23
   28
   Glucose
   327
   32
   58
   120
   52
   Other labs: PT / PTT / INR:13.5/34.0/1.2, CK / CKMB /
   Troponin-T:103/3/<0.01, ALT / AST:9/42, Alk Phos / T Bili:83/0.2,
   Differential-Neuts:66.9 %, Lymph:24.7 %, Mono:4.1 %, Eos:4.0 %,
   Fibrinogen:910 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:784
   IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 .H/O PANCREATITIS, CHRONIC
 PNEUMONIA, OTHER
   Ms. [**Known lastname 511**] is a 48-year-old female with history of IDDM, chronic
   pancreatitis, HTN, and longstanding anemia who presents now with SOB
   and diffuse pulmonary interstitial edema on CXR.
   ..
   #.Shortness of breath / hypoxia: The patient continues to be hypoxemia,
   although appears better with treatment and supportive therapy. CT of
   the chest shows ground-glass opacities, air bronchograms, and
   emphysematous changes. Her clinical picture of hypoxemia, SOB, and
   sputum are most likely inflammatory diseases such as diffuse
   interstitial pneumonitis (patient smoking for last 36 years and more
   recently 2ppd), acute interstitial pneumonia, acute eosinophilic
   pneumonitis, hypersensitivity reaction, and crytogenic organizing
   pneumonia. In addition, she is currently being treated for infectious
   etiologies (bacterial-Streptococcus (legionella negative), GNR vs.
   viral (negative respiratory viral) vs. fungal (no exposure history) vs.
   opportunistic (PCP [**Name Initial (PRE) 365**]). Although patient has crackles, edema and
   elevated JVP, CHF exacerbation is unlikely.  Sent tests for Wegeners
   and Goodpasture
s, although acute HCT drop was spurrious lab value.
   Sputum negative (poor sample).  Currently on 4L NC.
   - will f/u serologies for atypicals (mycoplasma, chlamydia)
   -continue on Vancomycin (started [**8-18**]) / Levaquin (started [**8-18**]) /
   Aztreonam (started [**8-18**])
   -vanc trough
   -f/u autoimmune labs
   -If patient does not improve on therapy, consider dexamethasone for
   pulmonary interstitial disease.
   -As an outpatient, the patient will have to have PFTs and Xrays to
   assess pulmonary function.
   #HTN
 sbp: 160-180
   --will re-start amlodipine today
   -- re-started lisinopril on [**8-21**].
   --continue to trend BPs
   --will dc a-line today
   #CHF - EKG with prominent LVH. Longstanding HTN makes diastolic
   dysfunction quite likely.  Last TTE in [**2127**] showed LVEF >55% but may
   have worsened systolic function and/or additional diastolic CHF since
   that time. She reports orthopnea, but denies LE edema, palpitations, or
   chest pain. CEs negative in ED. CXR with cephalization and edema. She
   has elevated BNP in 4k range which also supports CHF exacerbation which
   was likely triggered by new PNA/ URI.  Responded well to Lasix 10 bolus
   yesterday.
   --low Na diet
   --currently only on lisinopril for BP
   -Will continue to give lasix as needed
   .
   .
   # IDDM- She has history of insulin dependent diabetes. Low blood
   glucose in AM. On 28 of Lantus at night and a sliding scale.
   - ISS and Lantus at night / QID fingersticks
   .
   #.Anemia
Has chronic anemia with baseline Hct: 30-33. Pt currently at
   baseline. Acute drop from 31
24 on [**8-19**] initially reported was LAB
   ERROR.
   --cont to follow daily labs
   .
   #. Chronic pancreatitis- Per multiple OMR GI notes she is noted to have
   idiopathic chronic pancreatitis of unclear etiology after mutiple
   studies. She is seen by Dr. [**Last Name (STitle) 4691**]. At current time her chronic
   abdominal pain is near usual baseline and she has normal lipase level.
   -pain control with PRN Percocet, fentanyl patch
   -continue on usual supplemental Amylase-Lipase-Protease w/meals
   .
   #Depression- Slightly flattened affect on exam. She denies any current
   suicidal ideation/homicidal ideation. Per OMR notes, long history of
   depressive symptoms. Stable at current time.
   .
   #Tobacco use history - patient smoking 1PPD now.
   -- nicotine patch  prn
   ICU Care
   Nutrition:
   Glycemic Control:  Lantus and sliding scale. Glucose well-controlled.
   Lines:
   Arterial Line - [**2129-8-19**] 01:19 PM
   22 Gauge - [**2129-8-20**] 12:05 AM
   PICC Line - [**2129-8-20**] 10:00 AM
   Prophylaxis:
   DVT: SQ heparin, boots
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments: Spoke with daughter.
   [**Name (NI) 66**] status: Full code
   Disposition: Transfer to floor